US06310095B1
(4-nitro-2-phenylbenzoyl)methionine 2-trimethylsilylethyl ester
A mixture of (4-nitro-2-phenylbenzoyl)methionine methyl ester (7.69 g, 30 mmol), prepared as in Example 192A and aqueous saturated lithium hydroxide (20 mL) in methanol (50 mL) was refluxed for 6 hours. The reaction mixture was carefully acidified with concentrated hydrochloric acid (10 mL), and extracted with ethyl acetate (4×). The combine extracts were washed with brine, dried over anhydrous magnesium sulfate, filtered and concentrated in vacuo. The residue was dissolved in dichloromethane (50 mL) and THF (10 mL) and 2-trimethylsilylethanol (3.72 g, 31.5 mmol), 1,3-diisopropylcarbodiimide (5.17 mL, 33 mmol) and 4-dimethylaminopyridine (30 mg) were added sequentially. After 4 hours, aqueous hydrochloric acid (0.1 N, 0.5 mL) was added and the reaction mixture was stirred for another 2 hours. The reaction mixture was then filtered through silica gel (40 g), and the filtrate was concentrated in vacuo. The residue was purified by column chromatography (5% ethyl ether-hexane) to give the title compound (8.90 g, 87%).

reactant | (4-nitro-2-phenylbenzoyl)methionine methyl ester | 30 mmol, 7.69 g | COC([C@@H](NC(C1=C(C=C(C=C1)[N+](=O)[O-])C1=CC=CC=C1)=O)CCSC)=O | C19H20N2O5S
reactant | lithium hydroxide | 20 mL | [OH-].[Li+]
reactant | hydrochloric acid | 10 mL | Cl | ClH
reactant | 2-trimethylsilylethanol | 31.5 mmol, 3.72 g | C[Si](CCO)(C)C | C5H14OSi
reactant | 1,3-diisopropylcarbodiimide | 33 mmol, 5.17 mL | C(C)(C)N=C=NC(C)C | C7H14N2
reactant | hydrochloric acid | 0.1 N, 0.5 mL | Cl | ClH
solvent | methanol | 50 mL | CO | CH4O
catalyst | 4-dimethylaminopyridine | 30 mg | CN(C1=CC=NC=C1)C | C7H10N2
solvent | THF | 10 mL | C1CCOC1 | C4H8O
product | (4-nitro-2-phenylbenzoyl)methionine 2-trimethylsilylethyl ester | 8.90 g, 87% | C[Si](CCOC([C@@H](NC(C1=C(C=C(C=C1)[N+](=O)[O-])C1=CC=CC=C1)=O)CCSC)=O)(C)C | C23H30N2O5SSi
